.SUBCKT mmun2115lt1 1 2 3 
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* MODEL FORMAT: PSpice
* BRT macro model
* External node 
* Node 1 -> BRT_C
* Node 2 -> BRT_B
* Node 3 -> BRT_E
QOUT 1 4 3 qmodel
R1   2 4 10000
R2   4 3 1e+12
.MODEL qmodel pnp
+IS=2.15531e-13 BF=303.07 NF=1.14286 VAF=110.379
+IKF=0.119572 ISE=5.51785e-15 NE=4 BR=0.256354
+NR=1.32882 VAR=96.2336 IKR=0.000300419 ISC=6.26992e-15
+NC=1.99009 RB=9.88918 IRB=0.17941 RBM=0.979013
+RE=3.98528 RC=0.001 XTB=0.100541 XTI=3.27715 EG=1.206
+CJE=1.0394e-11 VJE=0.750033 MJE=0.329968 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=9.54334e-12
+VJC=0.0210543 MJC=0.203894 XCJC=0.9 FC=0.5
.ENDS